US07851623B2
1-(3-Chloropropyl)pyrrolidine oxalate (134.8 kg) was suspended in water (226 1) and methyl tert-butyl ether (83.4 kg) added. The stirred mixture was basified to pH>11 by addition of 49% w/w aqueous potassium hydroxide solution (138.9 kg). A line wash of water (22.6 1) was applied. The lower aqueous layer was separated and transferred to a second reactor. The upper organic layer was transferred to 200 1 drums. A line wash of methyl tert-butyl ether (16.7 kg) was applied. The aqueous layer was recharged to the original reactor and further extracted with methyl tert-butyl ether (83.4 kg). The lower aqueous layer was discarded. The original organic layer was recharged from the drums. A line wash of methyl tert-butyl ether (16.7 kg) was applied. The combined organic layers were washed with 23% w/w aqueous potassium chloride solution (64.8 kg) to give a solution of 1-(3-chloropropyl)pyrrolidine (83.9 kg) in methyl tert-butyl ether. The required amount of solution can then be used as appropriate.

reactant | 1-(3-Chloropropyl)pyrrolidine oxalate | 134.8 kg | C(C(=O)O)(=O)O.ClCCCN1CCCC1
reactant | methyl tert-butyl ether | 83.4 kg | C(C)(C)(C)OC | C5H12O
reactant | potassium hydroxide | 138.9 kg | [OH-].[K+]
solvent | water | O | H2O
product | 1-(3-chloropropyl)pyrrolidine | 83.9 kg | ClCCCN1CCCC1 | C7H14ClN
